US07501113B2
Buspirone Aerosol
A suitable aerosol was generated using buspirone (8-[4-[4-(2-pyrimidinyl)-1-piperazinyl]butyl]-8-azaspiro[4,5]decane-7,9-dione monohydrochloride) dissolved in propylene glycol (PG).

reactant | buspirone | Cl.N1=C(N=CC=C1)N1CCN(CC1)CCCCN1C(CC2(CCCC2)CC1=O)=O
solvent | propylene glycol | C(C(C)O)O | C3H8O2
product | Buspirone | C=1C=NC(=NC1)N2CCN(CC2)CCCCN3C(=O)CC4(CCCC4)CC3=O | C21H31N5O2
